US07348337B2
Preparation of 1-[4-(1-Phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)-methylene)-piperidin-1-yl]-2-(4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindol-3-yl)-ethane-1,2-dione:
To a solution of 4-[1-phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)methylene]-piperidine-1-carboxylic acid tert-butyl ester (0.0348 g, 0.098 mmol) in CH2Cl2 (1 mL) was added TFA (0.5 mL) and the reaction mixture was stirred for 30 min. The solvent was then removed in vacuo and the residual material was dissolved in CHCl3 (1 mL). To this solution was then added 4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindol-3-yl-oxoacetic acid hydrochloride salt (0.0621 g, 0.206 mmol) and iPrNEt2 (0.18 mL, 1.03 mmol), followed by BOP—Cl (0.0670 g, 0.263 mmol). The mixture was stirred at rt for 2 h and then the solvent was removed in vacuo. The residue was diluted with H2O and extracted with EtOAc (×3). The combined organic layers were washed (H2O, brine), dried (Na2SO4) and concentrated, and the residue was purified by preparative HPLC (NH4OAc) to give the title compound (0.0093 g, 18%) as a colorless solid:

reactant | 4-[1-phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)methylene]-piperidine-1-carboxylic acid tert-butyl ester | 0.098 mmol, 0.0348 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C)C1=CC=CC=C1 | C20H25N3O3
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindol-3-yl-oxoacetic acid hydrochloride salt | 0.206 mmol, 0.0621 g | Cl.COC1=C2C(=CNC2=C(N=C1)C=1NC(=NN1)C)C(C(=O)O)=O
reactant | iPrNEt2 | 1.03 mmol, 0.18 mL | C(C)(C)N(CC)CC | C7H17N
reactant | BOP—Cl | 0.263 mmol, 0.0670 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(1-Phenyl-1-(5-methyl-1,3,4-oxadiazol-2-yl)-methylene)-piperidin-1-yl]-2-(4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindol-3-yl)-ethane-1,2-dione | 0.0093 g, 18% | C1(=CC=CC=C1)C(C=1OC(=NN1)C)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1NC(=NN1)C)=O | C28H26N8O4
